US08034811B2
1-(2-Amino-pyridin-4-ylmethyl)-1H-benzo[d][1,3]oxazine-2,4-dione
To a stirred mixture of 2-aminopyridine-4-methanol (commercially available from CB Research, 25.05 g, 201.79 mmol), isatoic anhydride (32.91 g/201.74 mmol), and triphenylphosphine (52.92 g/201.76 mmol) in THF (400 ml) at 20° C. was added diisopropyl azodicarboxylate (40.8 g/201.77 mmol) drop-wise. The reaction mixture was stirred at room temperature for 1 hour. The mixture was cooled to 0° C. and the precipitated material was isolated by filtration and washed with a small amount of THF, to afford the title compound as a yellow solid material (18.93 g). The filtrate was evaporated under reduced pressure. To the residual oil was added dichloromethane. The resulting precipitate was isolated by filtration affording more product (1.21 g). The filtrate was extracted with 0.1M HClaq., and the pH of the aqueous layer was adjusted to ca. 7-8 with aqueous sodium bicarbonate, then extracted with EtOAc. The organic layer was evaporated under reduced pressure, and the resulting solid material was suspended in THF (100 ml). The solid material was isolated by filtration to yield more product (9.10 g). The filtrate was concentrated to ca. 45 ml, affording more precipitate and an additional amount of the title compound (1.77 g) after filtration and drying under vacuum. 13C-NMR (DMSO-d6) δ 160.0, 158.7, 148.1, 148.0, 145.0, 141.2, 137.1, 129.5, 123.8, 115.0, 111.7, 109.9, 104.5, 46.8.

reactant | 2-aminopyridine-4-methanol | NC1=NC=CC(=C1)CO | C6H8N2O
reactant | isatoic anhydride | 201.74 mmol, 32.91 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 201.76 mmol, 52.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 201.77 mmol, 40.8 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 1-(2-Amino-pyridin-4-ylmethyl)-1H-benzo[d][1,3]oxazine-2,4-dione | NC1=NC=CC(=C1)CN1C(OC(C2=C1C=CC=C2)=O)=O | C14H11N3O3
